US06362210B1
3-(naphth-2-yl)-butanoic acid-N-(2-carboxy-5-benzoylamino-phenyl)-amide
Prepared analogously to Example 2 from 3-(naphth-2-yl)-butanoic acid-N-(2-methoxycarbonyl-5-benzoylamino-phenyl)-amide and sodium hydroxide solution in methanol.

reactant | 3-(naphth-2-yl)-butanoic acid-N-(2-methoxycarbonyl-5-benzoylamino-phenyl)-amide | COC(=O)C1=C(C=C(C=C1)NC(C1=CC=CC=C1)=O)NC(CC(C)C1=CC2=CC=CC=C2C=C1)=O | C29H26N2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 3-(naphth-2-yl)-butanoic acid-N-(2-carboxy-5-benzoylamino-phenyl)-amide | C(=O)(O)C1=C(C=C(C=C1)NC(C1=CC=CC=C1)=O)NC(CC(C)C1=CC2=CC=CC=C2C=C1)=O | C28H24N2O4
